US07777047B2
ethyl 1-(methoxymethyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate
To a mixture of ethyl 7-amino-1-(methoxymethyl)-1H-indole-2-carboxylate (0.70 g) and pyridine (8 ml) was added thiophene-2-sulfonyl chloride (0.57 g) at 0° C., and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated, 10% aqueous citric acid solution was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (1.03 g, yield 93%) as a yellow oil from a fraction eluted with ethyl acetate-hexane (1:2, volume ratio).

reactant | ethyl 7-amino-1-(methoxymethyl)-1H-indole-2-carboxylate | 0.70 g | NC=1C=CC=C2C=C(N(C12)COC)C(=O)OCC | C13H16N2O3
reactant | thiophene-2-sulfonyl chloride | 0.57 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 1-(methoxymethyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 1.03 g, yield 93% | COCN1C(=CC2=CC=CC(=C12)NS(=O)(=O)C=1SC=CC1)C(=O)OCC | C17H18N2O5S2
